US04016159
10 g of 4-(2-imidazolinyl)-phenylacetic acid (melting point 196° to 197° C) were stirred with 150 ml of anhydrous benzene and 90 ml of thionyl chloride for 5 hours at 50° to 60° C. After cooling, the crystalline product was filtered off with suction, washed with anhydrous benzene and dried under reduced pressure. 11 g of 4-(2-imidazolinyl)-phenyl-acetyl chloride-hydrochloride were obtained.

reactant | 4-(2-imidazolinyl)-phenylacetic acid | 10 g | N1(C=NCC1)C1=CC=C(C=C1)CC(=O)O | C11H12N2O2
reactant | thionyl chloride | 90 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 4-(2-imidazolinyl)-phenyl-acetyl chloride-hydrochloride | 11 g | Cl.N1(C=NCC1)C1=CC=C(C=C1)CC(=O)Cl | InChI=1S/C11H11ClN2O.ClH/c12-11(15)7-9-1-3-10(4-2-9)14-6-5-13-8-14;/h1-4,8H,5-7H2;1H
